US07632850B2
14.3. 2-(methylamino)-2-oxoethyl 2-{4-[(4-chlorophenyl)oxy]phenyl}ethylcarbamate
0.46 g (1.39 mmol) of 3-(2-(4-[(4-chlorophenyl)oxy]phenyl)ethyl)-1,3-oxazolidine-2,4-dione, prepared in step 14.2., is redissolved in a mixture of 3 ml of tetrahydrofuran and 6 ml of methanol. 3 ml of a 2M solution of methylamine (6 mmol) in tetrahydrofuran are added. The mixture is left to react at ambient temperature overnight and then 2 g of silica are added and the mixture is evaporated to dryness. The residue is purified by chromatography on silica gel, eluting with a 98/2 then 96/4 and 94/6 mixture of dichloromethane and methanol. The product is recrystallized from a mixture of ethyl acetate and diisopropyl ether, to give 0.40 g of product in the form of a white powder.

reactant | 3-(2-(4-[(4-chlorophenyl)oxy]phenyl)ethyl)-1,3-oxazolidine-2,4-dione | 1.39 mmol, 0.46 g | ClC1=CC=C(C=C1)OC1=CC=C(C=C1)CCN1C(OCC1=O)=O | C17H14ClNO4
reactant | methylamine | 6 mmol | CN | CH5N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | 2-(methylamino)-2-oxoethyl 2-{4-[(4-chlorophenyl)oxy]phenyl}ethylcarbamate | 0.40 g | ClC1=CC=C(C=C1)OC1=CC=C(C=C1)CCNC(OCC(=O)NC)=O | C18H19ClN2O4
